datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:11],66.1909
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:19],62.902256
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],61.0864
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[O:31][H:32]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11].[H:12][O:31][H:32],0.0
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[H:20]>>[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8][c:9]([H:19])[c:10]1[c:11]23.[H:18][H:20],66.5158
[S:0]=[C:1]([C:2]([S:3][H:6])[H:5])[H:4].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[S:0]=[C:1]([C:2]([S:3][H:6])([H:5])[H:13])[H:4].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],192.087
[C:0]([C:1]([O:2][O:3])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][O:3][H:9])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:12])([H:10])[H:11],140.164
[S:0]=[C:1]([S:2][H:4])[H:3].[S:5]=[C:6][S:7][H:8]>>[H:4][C:6](=[S:5])[S:7][H:8].[S:0]=[C:1]([S:2])[H:3],-9.2048
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][H:12],14.5603
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][S:7][H:8]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[S:6][S:7][H:8],97.4872
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:15]([H:16])([H:17])[H:18])[H:7],20.0832
[C:0]([C:1]1[C:2]([H:9])([H:10])[O:3][O:4][C:5]1([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])[O:3][O:4][C:5]1([H:11])[H:12])([H:6])([H:7])[H:8],162.42288
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18],30.1248
[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:22])[H:23])([H:20])[H:21])([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])[H:19])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],42.4869
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])([H:12])[H:13].[O:34][O:35]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:11][O:34][O:35],0.0
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([S:12][H:20])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:16])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[S:12][H:20])([H:13])([H:14])[H:15],24.2672
[I:4].[O:0]([O:1][H:3])[H:2]>>[H:2][I:4].[O:0][O:1][H:3],73.83
